*$
*//-----------------------------------------------------------------------//
*//   Part No.    : APXS160ARA121MH70G
*//   Date        : 2020/12/24
*//   Temperature : 20deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2020 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT APXS160ARA121MH70G_20deg-C 1 2

C1 4 2 5.34e-05
C2 5 2 2.02e-05
C3 6 2 1.56e-05
R1 3 4 1.45e-02
R2 4 5 7.10e-02
R3 5 6 1.07e+00
L1 1 3 3.40e-09

.ENDS
